US07288677B2
A two-liter three neck round bottom flask was equipped with a magnetic stirrer, a heating mantle, a thermocouple, a glass stopper and a Dean Stark trap fitted with a condenser. 4,4′-Methylenebis(2,6-diethylbenzeneamine) (310.5 g, 1.00 mol) and methyl ethyl ketone (450 mL, 350 g, 4.85 mol) were added to the flask. This mixture was stirred at 40° C. to dissolve the 4,4′-methylenebis(2,6-diethylbenzeneamine). Hexanes (300 mL) and Amberlyst-15 (15.54 g) were added to the flask. The mixture was heated to reflux, and water was removed as an azeotrope in the Dean Stark trap. Samples were periodically taken and analyzed by gas chromatography (GC). N,N′-di-sec-butylidene-4,4′-methylenebis(2,6-diethylbenzeneamine) was formed in 94.7% yield. GC results are summarized in Table 1; units for the diamine, monoimine, and diimine are GC area percent.

reactant | 4,4′-Methylenebis(2,6-diethylbenzeneamine) | 1.00 mol, 310.5 g | C(C1=CC(=C(C(=C1)CC)N)CC)C1=CC(=C(C(=C1)CC)N)CC | C21H30N2
reactant | methyl ethyl ketone | 4.85 mol, 450 mL, 350 g | C(C)C(=O)C | C4H8O
product | N,N′-di-sec-butylidene-4,4′-methylenebis(2,6-diethylbenzeneamine) | 94.7% yield | C(C)(CC)=NC1=C(C=C(C=C1CC)CC1=CC(=C(C(=C1)CC)N=C(C)CC)CC)CC | C29H42N2
